US09370522B2
Methyl 2,3-bis(4-methoxyphenyl)-3-oxopropanoate (1.3 g, 4.14 mmol, 1.00 equiv), ethyl 4-aminobenzoate (680 mg, 4.12 mmol, 1.00 equiv), CH3SO3H (118 mg, 1.23 mmol, 0.30 equiv), and Ph2O (20 mL) were placed in a 100-mL round-bottom flask stirred for 1 h at 90° C., then at 180° C. for 3 h, in an oil bath. Upon cooling, 100 ml of petroleum ether was added. The resulting solid was collected by filtration and dried in a vacuum oven, affording 1.1 g (crude) of ethyl 4-hydroxy-2,3-bis(4-methoxyphenyl)quinoline-6-carboxylate as a brown solid.

reactant | Methyl 2,3-bis(4-methoxyphenyl)-3-oxopropanoate | 4.14 mmol, 1.3 g, 1.00 equiv | COC1=CC=C(C=C1)C(C(=O)OC)C(=O)C1=CC=C(C=C1)OC | C18H18O5
reactant | ethyl 4-aminobenzoate | 4.12 mmol, 680 mg, 1.00 equiv | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | CH3SO3H | 1.23 mmol, 118 mg, 0.30 equiv | CS(=O)(=O)O | CH4O3S
solvent | Ph2O | 20 mL | O(C1=CC=CC=C1)C1=CC=CC=C1 | C12H10O
product | ethyl 4-hydroxy-2,3-bis(4-methoxyphenyl)quinoline-6-carboxylate | 1.1 g | OC1=C(C(=NC2=CC=C(C=C12)C(=O)OCC)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C26H23NO5
